US06936602B1
To a solution of methyl 7-[4-(2-butoxyethoxy)phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylate (400 mg) and 3-ethoxypropionaldehyde (0.52 g) in 1,2-dichloroethane (10 ml) was added sodium triacetoxyborohydride (0.64 g) at room temperature, and the mixture was stirred for 20 hours. To the reaction system was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried with magnesium sulfate. After concentration under reduced pressure, the residue was separated and purified with column chromatography (ethyl acetate:hexane=1:4→1:3) to give methyl 7-[4-(2-butoxyethoxy)phenyl]-1-(3-ethoxypropyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate (452 mg) as yellow oil.

reactant | methyl 7-[4-(2-butoxyethoxy)phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 400 mg | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2)C(=O)OC)C1 | C24H29NO4
reactant | 3-ethoxypropionaldehyde | 0.52 g | C(C)OCCC=O | C5H10O2
reactant | sodium triacetoxyborohydride | 0.64 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | water | O | H2O
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | methyl 7-[4-(2-butoxyethoxy)phenyl]-1-(3-ethoxypropyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 452 mg | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2CCCOCC)C(=O)OC)C1 | C29H39NO5
